US07405210B2
Preparation 5: 5-Chloro-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid ethyl ester
To a solution of 3-(2-chloro-5-nitropyridin-6-yl)-2-oxopropionic acid ethyl ester (Preparation 4, 1.53 g, 5.6 mmol) in THF (65 mL) and ethanol (30 mL) was added saturated aqueous ammonium chloride solution (30 mL) and the suspension was vigorously stirred at rt. Iron powder (1.95 g, 34.8 mmol) was added portionwise and the mixture was heated under reflux for 2 h then allowed to cool prior to filtration through a celite plug, and washed through with warm THF. The mixture was concentrated under reduced pressure to give an aqueous suspension, which was filtered through a sinter, washing with water. The wet solid was washed with methanol and dried. The residue was adsorbed onto silica gel and purified via flash chromatography eluting with ethyl acetate/hexane (1:19) to give the title compound as a white solid. δH (CD3OD): 1.42 (3H, t, 7.03 Hz), 4.42 (2H, q, 7.32 Hz), 7.15 (1H, s), 7.30 (1H, d, 8.79 Hz), 7.89 (1H, d, 8.35 Hz); m/z (ES+)=225.03 [M+H]+; RT=3.32 min.

reactant | 3-(2-chloro-5-nitropyridin-6-yl)-2-oxopropionic acid ethyl ester | 5.6 mmol, 1.53 g | C(C)OC(C(CC1=C(C=CC(=N1)Cl)[N+](=O)[O-])=O)=O | C10H9ClN2O5
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | THF | 65 mL | C1CCOC1 | C4H8O
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Iron | 34.8 mmol, 1.95 g | [Fe] | Fe
product | 5-Chloro-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=NC(=CC=C2N1)Cl | C10H9ClN2O2
